US05194442
5-Hydroxy-7-nitro-2,3,4,5-tetrahydro-1-benzoxepin
32.1 g (0.155 mole) of 2,3-dihydro-7-nitro-1-benzoxepin-5(4H)-one are suspended in 220 ml of methanol and, while stirring at 0° C. under argon, 6.5 g (0.17 mole) of sodium borohydride are added in portions. The mixture is then stirred for about 30 minutes and stirred into ice/water, and the precipitated solid is filtered off with suction and thoroughly washed with water. The solid is taken up in the ethyl acetate, and the solution is separated from the water, dried over sodium sulfate, filtered and evaporated in vacuo. The residue is crystallized in diisopropyl ether/cyclohexane with the addition of active charcoal.

reactant | 2,3-dihydro-7-nitro-1-benzoxepin-5(4H)-one | 0.155 mole, 32.1 g | [N+](=O)([O-])C=1C=CC2=C(C(CCCO2)=O)C1 | C10H9NO4
reactant | sodium borohydride | 0.17 mole, 6.5 g | [BH4-].[Na+]
solvent | methanol | 220 ml | CO | CH4O
product | 5-Hydroxy-7-nitro-2,3,4,5-tetrahydro-1-benzoxepin | OC1CCCOC2=C1C=C(C=C2)[N+](=O)[O-] | C10H11NO4
